US05116741
Z-Tyr-Gly-Gly-Ome
330 mg (1 mmole) of Z-L-Tyr-OMe, 400 mg (2.2 mmole) of H-Gly-Gly-Ome, HCl were suspended in 5 mL DMSO and 5 mL 0.1 M tris-HCl, pH 8.9. 25 mg of α-chymotrypsin were added and the reaction stirred for 30 minutes. Five volumes of ice water were added, and the precipitate collected by filtration. Yield 312 mg (70%, based on acyl-donor). Amino acid analysis: tyr1.0,gly2.1.

reactant | Z-L-Tyr-OMe | 1 mmole, 330 mg | N([C@@H](CC1=CC=C(C=C1)O)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C18H19NO5
reactant | H-Gly-Gly | 2.2 mmole, 400 mg | NCC(=O)NCC(=O)O | C4H8N2O3
reactant | HCl | Cl | ClH
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | Z-Tyr-Gly-Gly | N([C@@H](CC1=CC=C(C=C1)O)C(=O)NCC(=O)NCC(=O)O)C(=O)OCC1=CC=CC=C1 | C21H23N3O7
